datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)([NH3+])C(C)(C)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)([NH3+])C(C)(C)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)[NH:10]CCN.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH+:10](CCN)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"FC(F)C[NH2+:21][H:20].[NH3+]CCCCC[NH2:10]>>FC(F)C[NH2:21].[NH3+]CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCCSSC(CCO)=C(C)N(C=O)Cc1c[n+:21]([H:20])c(C)nc1N.C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C>>CCCSSC(CCO)=C(C)N(C=O)Cc1c[n:21]c(C)nc1N.C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C 10=20;20,21=21",
"Cc1ccc([NH+:21](C(C)(C)C)[H:20])cc1.Cc1nc2c([O-:10])ccc(O)c2n1C>>Cc1ccc([NH:21]C(C)(C)C)cc1.Cc1nc2c([O:10][H:20])ccc(O)c2n1C 10=20;20,21=21",
"Cc1ccc(C(=S)[N:21](c2ccc(Br)cc2)[H:20])cc1.c1ccc(Oc2cc[n:10]cc2)cc1>>Cc1ccc(C(=S)[N-:21]c2ccc(Br)cc2)cc1.c1ccc(Oc2cc[n+:10]([H:20])cc2)cc1 10=20;20,21=21",
"CC(=O)[N:10]=S(C)C.CN1C=NC=C(c2ccccc2)/C1=[O+:21]/[H:20]>>CC(=O)[N+:10](=S(C)C)[H:20].CN1C=NC=C(c2ccccc2)C1=[O:21] 10=20;20,21=21",
"CC(=O)c1ccc([O:21][H:20])c(O)c1.[NH3+][C@H]1CC[C@H](C(=O)[O-:10])CC1>>CC(=O)c1ccc([O-:21])c(O)c1.[NH3+][C@H]1CC[C@H](C(=O)[O:10][H:20])CC1 10=20;20,21=21",
"CCCNCC[NH+:21](CCC)[H:20].CCc1nnn[n-:10]1>>CCCNCC[NH:21]CCC.CCc1nnn[n:10]1[H:20] 10=20;20,21=21",
"CCOCC[NH:10]c1cccc(OC)c1.O=CCCCC(=O)[O:21][H:20]>>CCOCC[NH+:10](c1cccc(OC)c1)[H:20].O=CCCCC(=O)[O-:21] 10=20;20,21=21",
"Cc1ccc(C)[n+:21]([H:20])n1.c1ccc(C[NH:10]C(CC2CCCCC2)CC2CCCCC2)cc1>>Cc1ccc(C)[n:21]n1.c1ccc(C[NH+:10](C(CC2CCCCC2)CC2CCCCC2)[H:20])cc1 10=20;20,21=21",
"Cc1cc(C2(c3ccc([O-:10])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O.O/C(c1ccccc1)=[O+:21]\[H:20]>>Cc1cc(C2(c3ccc([O:10][H:20])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O.OC(c1ccccc1)=[O:21] 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH+:21](C(C)C)[H:20].C[NH+](C)CCc1ccc([O-:10])cc1>>C=C(C)C(=O)OCC[NH:21]C(C)C.C[NH+](C)CCc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"COCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C(Cl)C([N+](=O)[O-])=C1)[H:20]>>COCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C(Cl)C([N+](=O)[O-])=C1 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1cccc2ccccc12.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH+:10](CC(O)COc1cccc2ccccc12)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]C(=O)OC(C)(C)C)cc1.O=C(c1cc[nH]c1)[O:21][H:20]>>Cc1ccc(S(=O)(=O)[N:10](C(=O)OC(C)(C)C)[H:20])cc1.O=C(c1cc[nH]c1)[O-:21] 10=20;20,21=21",
"COCC[N:10](C)c1ccccc1.Cn1cc([NH2+:21][H:20])cc1C(=O)[O-]>>COCC[N+:10](C)(c1ccccc1)[H:20].Cn1cc([NH2:21])cc1C(=O)[O-] 10=20;20,21=21",
"CS(=O)[O:21][H:20].[NH3+]CCCCCC[NH2:10]>>CS(=O)[O-:21].[NH3+]CCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc(C(=O)[O-:10])s1.CC[N+:21](CC)(c1ccccc1C)[H:20]>>CC(=O)c1ccc(C(=O)[O:10][H:20])s1.CC[N:21](CC)c1ccccc1C 10=20;20,21=21",
"CC(C)CCCC(C)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)CCCC(C)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"ClC(Cl)=CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>ClC(Cl)=CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C(=O)c1ccccc1)c1cc[n:10]cc1.C[C@@H]1CCCC[C@@H]1[NH2+:21][H:20]>>CN(C(=O)c1ccccc1)c1cc[n+:10]([H:20])cc1.C[C@@H]1CCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"Nc1c[n+:21]([H:20])cc2ccccc12.c1ccc2c3c([nH]c2c1)C[NH:10]CC3>>Nc1c[n:21]cc2ccccc12.c1ccc2c3c([nH]c2c1)C[NH+:10]([H:20])CC3 10=20;20,21=21",
"O=C(N[O-:10])c1ccccn1.c1ccc2c[n+](CC[NH2+:21][H:20])ccc2c1>>O=C(N[O:10][H:20])c1ccccn1.c1ccc2c[n+](CC[NH2:21])ccc2c1 10=20;20,21=21",
"CC(O)C[N:10](CC(C)O)C(C)(C)C.CN1CCCC[N+:21]1(C)[H:20]>>CC(O)C[N+:10](CC(C)O)(C(C)(C)C)[H:20].CN1CCCC[N:21]1C 10=20;20,21=21",
"O=S(=O)([O-])c1cc([O-:10])c2cn[nH]c2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S(=O)([O-])c1cc([O:10][H:20])c2cn[nH]c2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)C(O[C@H]1O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C.Cc1cccc(S(=O)(=O)[O:21][H:20])c1>>CC(C)C(O[C@H]1O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C.Cc1cccc(S(=O)(=O)[O-:21])c1 10=20;20,21=21",
"COC(C)(O)[OH+:21][H:20].O=C([O-])[C@@H]1CC[C@@H](C(=O)[O-:10])[Se][Se]1>>COC(C)(O)[OH:21].O=C([O-])[C@@H]1CC[C@@H](C(=O)[O:10][H:20])[Se][Se]1 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]C[Si](C)(C)C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[Si](C)(C)C[NH+:10](C[Si](C)(C)C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Nc1ccc([NH2+:21][H:20])cc1.c1ncc(Cc2c[n:10]c[nH]2)[nH]1>>Nc1ccc([NH2:21])cc1.c1ncc(Cc2c[n+:10]([H:20])c[nH]2)[nH]1 10=20;20,21=21",
"CSc1nc(N)c2[nH]cnc2[n:10]1.OCCNc1nc(NCCO)[n+:21]([H:20])c(NCCO)n1>>CSc1nc(N)c2[nH]cnc2[n+:10]1[H:20].OCCNc1nc(NCCO)[n:21]c(NCCO)n1 10=20;20,21=21",
"CC(=O)c1ccc([S-:10])cc1.CCOC(=O)C[NH2+:21][H:20]>>CC(=O)c1ccc([S:10][H:20])cc1.CCOC(=O)C[NH2:21] 10=20;20,21=21",
